US04036975
A solution of 5 g. of 1-adamantyl bromomethyl ketone in 10 ml. of dimethylformamide is added dropwise with stirring and ice-cooling to 7 g. imidazole in 10 ml. dimethylformamide. The resulting solution is stirred overnight at room temperature and then poured into 250 ml. water. The precipitate which forms is filtered off, washed with water and air dried. Thereafter the resulting residue is chromatographed on silica gel to effect purification. Elution with 10% acetone in dichloromethane yields 1-adamantyl 1-imidazolylmethyl ketone, M.P. 128.5°-129.5° C.

reactant | 1-adamantyl bromomethyl ketone | BrCC(=O)C12CC3CC(CC(C1)C3)C2 | C12H17BrO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | water | O | H2O
product | 1-adamantyl 1-imidazolylmethyl ketone | N1C(=NC=C1)CC(=O)C12CC3CC(CC(C1)C3)C2 | C15H20N2O
